US08791132B2
To a de-aerated solution of 2-allyl-8-methyl-5-[2-(6-methyl-pyridin-3-yl)-propenyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (750 mg, 2.1 mmol) in DCM (7.5 mL) were added 1,3-dimethylbarbutaric acid (984 mg, 6.302 mmol) and Pd(PPh3)4 (48 mg, 0.042 mmol), and the reaction mixture stirred for 1 h at RT. The reaction mixture was concentrated and the residue diluted with 25% saturated potassium carbonate and extracted with EtOAc (3×30 mL). The combined organic layer was washed with water (2×25 mL), dried over anhydrous sodium sulfate and concentrated to afford crude material, which was purified by column chromatography using neutral alumina and 2% MeOH-DCM followed by reverse phase HPLC to yield 8-methyl-5-[2-(6-methyl-pyridin-3-yl)-propenyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (180 mg). 1H NMR (CD3OD, TFA salt) δ (ppm): 8.92 (s, 1H), 8.65 (d, 1H), 7.90 (d, 1H), 7.36 (d, 2H), 7.18 (d, 1H), 7.16 (d, 1H), 4.50 (s, 2H), 3.65 (t, 2H), 3.10 (t, 2H), 2.80 (s, 3H), 2.42 (s, 3H), 2.05 (s, 3H).

reactant | 2-allyl-8-methyl-5-[2-(6-methyl-pyridin-3-yl)-propenyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.1 mmol, 750 mg | C(C=C)N1CC2=C(N(C=3C=CC(=CC23)C)C=C(C)C=2C=NC(=CC2)C)CC1 | C24H27N3
solvent | DCM | 7.5 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.042 mmol, 48 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-methyl-5-[2-(6-methyl-pyridin-3-yl)-propenyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 180 mg | CC1=CC=2C3=C(N(C2C=C1)C=C(C)C=1C=NC(=CC1)C)CCNC3 | C21H23N3
